### PR TITLE
[Merged by Bors] - feat(NumberTheory/Chebyshev,NumberTheory/ArithmeticFunction/vonMangoldt): add positivity extensions

### PR DESCRIPTION
**Pull request by teorth**
Adds `positivity` extensions for the von Mangoldt and Chebyshev functions.

---

I am a novice in metaprogramming and these extensions were essentially copy-pasted from existing extensions.  They should probably be reviewed by someone who actually is competent in metaprogramming.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
> They should probably be reviewed by someone who actually is competent in metaprogramming.

I'm not sufficiently "meta"-competent to review this I'm afraid. Maybe @b-mehta ?

File: Mathlib/NumberTheory/ArithmeticFunction/VonMangoldt.lean [hunk 1]
```diff
@@ -156,3 +156,19 @@ theorem vonMangoldt_le_log : ∀ {n : ℕ}, Λ n ≤ Real.log (n : ℝ)
...
 
 end ArithmeticFunction
+
+namespace Mathlib.Meta.Positivity
+
+open Lean Meta Qq Function
+
+/-- Extension for the `positivity` tactic: the von Mangoldt function is nonnegative. -/
+@[positivity ArithmeticFunction.vonMangoldt _]
+meta def evalvonMangoldt : PositivityExt where eval {u α} _zα pα? e :=
```
Comment (b-mehta) [inline Mathlib/NumberTheory/ArithmeticFunction/VonMangoldt.lean]:
```suggestion
meta def evalVonMangoldt : PositivityExt where eval {u α} _zα pα? e :=
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 2]
```diff
@@ -853,3 +853,28 @@ theorem pi_le_log4_mul_div {x : ℝ} (hx : 1 < x) : π ⌊x⌋₊ ≤ log 4 * x
 
 end PrimeCounting
 end Chebyshev
+namespace Mathlib.Meta.Positivity
```
Comment (b-mehta) [inline Mathlib/NumberTheory/Chebyshev.lean:857]:
```suggestion

namespace Mathlib.Meta.Positivity
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 3]
```diff
@@ -853,3 +853,28 @@ theorem pi_le_log4_mul_div {x : ℝ} (hx : 1 < x) : π ⌊x⌋₊ ≤ log 4 * x
...
+
+open Lean Meta Qq Function
```
Comment (b-mehta) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
open Lean Meta Qq
```
minor, but this isn't necessary

File: Mathlib/NumberTheory/ArithmeticFunction/VonMangoldt.lean [hunk 4]
```diff
@@ -156,3 +156,19 @@ theorem vonMangoldt_le_log : ∀ {n : ℕ}, Λ n ≤ Real.log (n : ℝ)
       (mem_divisors_self _ n.succ_ne_zero)
 
 end ArithmeticFunction
+
+namespace Mathlib.Meta.Positivity
+
+open Lean Meta Qq Function
```
Comment (b-mehta) [inline Mathlib/NumberTheory/ArithmeticFunction/VonMangoldt.lean]:
```suggestion
open Lean Meta Qq
```

**Review by b-mehta — APPROVED** [review]
Can we add tests for this, in MathlibTest/positivity.lean? These can be simple, eg
```
example (n : ℕ) : 0 ≤ ArithmeticFunction.vonMangoldt n := by positivity
example (x : ℝ) : 0 ≤ Chebyshev.theta x := by positivity
example (x : ℝ) : 0 ≤ Chebyshev.psi x := by positivity
```

Looks good to me otherwise, thanks!

**Comment by b-mehta** [comment]
Ah, it looks like you'll need to import the relevant files into the test file

**Comment by b-mehta** [comment]
Thanks!

bors merge
